US06348032B1
A mixture of 2,4-dimethyl-6-methoxycarbonylbenzimidazole (0.900 g), 2,4-dichlorobenzyl chloride (1.20 g), sodium iodide (0.200 g), potassium carbonate (0.610 g) and N,N-dimethylformamide (4 ml) is stirred for 16 hours at 80° C. After removing the organic solvent through evaporation under reduced pressure, ethyl acetate and water are added and extraction is performed. The organic layer is concentrated, hexane is added and it is crystallized. The crystals are separated through filtration, dried and thus, 1-(2,4-dichlorobenzyl)-2,4-dimethyl-6-methoxycarbonylbenzimidazole (1.08 g) is obtained. 1H-NMR (CDCl3, δ): 2.58 (3H, s), 2.71 (3H, s), 3.90 (3H, s), 5.39 (2H, s), 6.30 (1H, d, J=8.4 Hz), 7.07 (1H, dd, J=8.4 and 2.0 Hz), 7.49 (1H, d, J=2.0 Hz), 7.75 (1H, s), 7.81 (1H, s).

reactant | 2,4-dimethyl-6-methoxycarbonylbenzimidazole | 0.900 g | CC=1NC2=C(N1)C=C(C=C2C)C(=O)OC | C11H12N2O2
reactant | 2,4-dichlorobenzyl chloride | 1.20 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | sodium iodide | 0.200 g | [I-].[Na+]
reactant | potassium carbonate | 0.610 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-dichlorobenzyl)-2,4-dimethyl-6-methoxycarbonylbenzimidazole | 1.08 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3C)C(=O)OC)C)C=CC(=C1)Cl | C18H16Cl2N2O2
